US04501735
For 20 hours, 1.83 g 6-chloropurine riboside, 0.95 g (R)(-)-1-aminoindane and 0.862 g triethylamine are refluxed in 50 ml absolute ethanol under nitrogen atmosphere. The solvent is evaporated to dryness and residue is treated with 50 ml cold water. The solid material is filtered, dissolved in excess ethanol, and volatiles are evaporated under reduced pressure to remove water. Residue upon treatment with ethanol affords solid material. It is filtered and dried. One more crop of the same material is obtained from the mother liquor yielding 1.46 g (60% of theory) of N(6) [1-(R)-indanyl]adenosine having a melting point of 185°-187° C.

reactant | 6-chloropurine riboside | 1.83 g | C1=NC2=C(C(=N1)Cl)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O | C10H11ClN4O4
reactant | (R)(-)-1-aminoindane | 0.95 g | N[C@@H]1CCC2=CC=CC=C12 | C9H11N
reactant | triethylamine | 0.862 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N(6) [1-(R)-indanyl]adenosine | 1.46 g, 60% | [C@H]1(CCC2=CC=CC=C12)NC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C19H21N5O4
